US07846959B2
2-[(3-Oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl)carbonyl]benzoic acid (100 mg, 0.34 mmol.) was taken into DMF (1 mL) followed by addition of 4-methylmorpholine (75 uL, 0.7 mmol.) and PyBOP (177 mg, 0.34 mmol.) and the resulting solution was stirred for 15 minutes at room temperature. N-Hydroxybenzenecarboximidamide (46 mg, 0.34 mmol.) was added to the solution thus obtained and the mixture was allowed to stir an additional hour then partitioned with ethyl acetate and water. The organic layer was washed with water (3×), 10% aqueous citric acid (2×), saturated aqueous sodium bicarbonate (1×) and brine then dried over anhydrous sodium sulfate. Filtration and concentration afforded a crystalline solid that was suspended in anhydrous 1:1 THF:acetonitrile (1 mL) followed by addition of 1M TBAF in THF (300 uL) and the mixture was allowed to stir at room temperature under a nitrogen atmosphere for 24 hours. The solvent was removed in vacuo and the residue partitioned with ethyl acetate and water. The organic layer was washed twice with additional water and a crystalline solid was obtained from the organic layer. The solid product was collected by filtration and suspended in methanol. The solid was again collected by filtration, washed with additional methanol and dried in vacuo to give 6-{[2-(3-phenyl-1,2,4-oxadiazol-5-yl)phenyl]carbonyl}-2H-1,4-benzoxazin-3(4H)-one (63 mg, 47% yield) as a white crystalline solid. 1H NMR (400 MHz, d4-MeOH): 8.26 (d, 1H), 7.91 (d, 2H), 7.83-7.80 (m, 2H), 7.62 (d, 1H), 7.52-7.44 (m, 4H), 7.35 (dd, 1H), 6.96 (d, 1H), 4.61 (s, 2H). MS (EI) for C23H15N3O4: 398 (MH+).

reactant | 2-[(3-Oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl)carbonyl]benzoic acid | 0.34 mmol, 100 mg | O=C1COC2=C(N1)C=C(C=C2)C(=O)C2=C(C(=O)O)C=CC=C2 | C16H11NO5
reactant | 4-methylmorpholine | 0.7 mmol, 75 uL | CN1CCOCC1 | C5H11NO
reactant | PyBOP | 0.34 mmol, 177 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N-Hydroxybenzenecarboximidamide | 0.34 mmol, 46 mg | ONC(=N)C1=CC=CC=C1 | C7H8N2O
reactant | TBAF | 1M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 300 uL | C1CCOC1 | C4H8O
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-{[2-(3-phenyl-1,2,4-oxadiazol-5-yl)phenyl]carbonyl}-2H-1,4-benzoxazin-3(4H)-one | 63 mg, 47% yield | C1(=CC=CC=C1)C1=NOC(=N1)C1=C(C=CC=C1)C(=O)C=1C=CC2=C(NC(CO2)=O)C1 | C23H15N3O4
